US05424440
d. Synthesis of 2-Carbamyl-6-Hydroxybenzothiazole Dimethylphosphate
Three grams (0.015moles) of 2-carbamyl-6-hydroxybenzothiazole (ABT) was dissolved in 30 mLs of THF. Then 1.72 g (0.017 moles) triethylamine was added to the stirring reaction solution, followed immediately by the addition over 5 minutes of 2.6 g (0.018 moles) of dimethylchlorophosphate dissolved in 7 mLs of THF. This solution was stirred for 72 hours at room temperature.

reactant | 2-carbamyl-6-hydroxybenzothiazole | 0.015moles, Three grams | C(N)(=O)C=1SC2=C(N1)C=CC(=C2)O | C8H6N2O2S
reactant | triethylamine | 0.017 moles, 1.72 g | C(C)N(CC)CC | C6H15N
reactant | dimethylchlorophosphate | 0.018 moles, 2.6 g | COP(=O)(OC)Cl | C2H6ClO3P
solvent | THF | 30 mLs | C1CCOC1 | C4H8O
solvent | THF | 7 mLs | C1CCOC1 | C4H8O
product | 2-Carbamyl-6-Hydroxybenzothiazole Dimethylphosphate | COP(=O)(OC)O.C(N)(=O)C=1SC2=C(N1)C=CC(=C2)O | InChI=1S/C8H6N2O2S.C2H7O4P/c9-7(12)8-10-5-2-1-4(11)3-6(5)13-8;1-5-7(3,4)6-2/h1-3,11H,(H2,9,12);1-2H3,(H,3,4)
